US04146631
A mixture of methyl gentisate (16.8 g) and anhydrous potassium carbonate (7.0 g) in dry sulpholane (150 ml) was treated, with stirring, with benzyl chloride (12.7 g), and the mixture was stirred and heated at 100° C. for 4 hours. The mixture was then poured into water (800 ml) and the separated solid was filtered off and recrystallized from ethanol (with the aid of charcoal) to give methyl 5-benzyloxysalicylate (10.7 g), m.p. 108°-112° C. This ester (9.2 g) was heated at 150° C. for 3 hours with a mixture of anhydrous potassium carbonate (2.5 g) and benzyl chloride (4.52 g) in dry sulpholane (100 ml) and the mixture was then cooled and poured into a mixture of ice and water (700 ml), and the mixture was extracted with diethyl ether (2 × 300 ml). The ether extracts were combined and evaporated, the residual oil was triturated with water (100 ml), the oil was separated and the aqueous layer was extracted with diethyl ether (25 ml). The combined oil and extracts were washed with brine, dried over magnesium sulphate and evaporated to give crude methyl 2,5-dibenzyloxybenzoate (12.7 g). This ester (12.4 g) was heated at reflux with aqueous sodium hydroxide solution (2N; 400 ml) for 2 hours and allowed to cool. The separated sodium salt was filtered off and ground with hydrochloric acid (6N; 100 ml), the mixture was heated at reflux for 5 minutes and then cooled. The solid which separated was filtered off, washed with water and dried to give 2,5-dibenzyloxybenzoic acid (8.2 g), m.p. 107°-108.5° C.

reactant | methyl gentisate | 16.8 g | C(C=1C(O)=CC=C(O)C1)(=O)OC | C8H8O4
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 12.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 800 ml | O | H2O
solvent | sulpholane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | methyl 5-benzyloxysalicylate | 10.7 g | C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)OC)=C1)O | C15H14O4
